US04497650
1,2-Dihydro-2,2,3,7,8-pentamethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one
2-Amino-5,6-dimethylbenzimidazole monohydrate, acetone and methyl isocyanate were reacted, conducting the initial condensation and subsequent base hydrolysis of the intermediate 10-N-methylcarbamoyl precursor as described in Example 1. The title compound was recovered and purified by liquid chromatography to give a solid, mp 211° C. (dec.). The confirmatory elemental analysis is shown in Table III.

reactant | 2-Amino-5,6-dimethylbenzimidazole monohydrate | O.NC=1NC2=C(N1)C=C(C(=C2)C)C
reactant | methyl isocyanate | CN=C=O | C2H3NO
reactant | acetone | CC(=O)C | C3H6O
product | 1,2-Dihydro-2,2,3,7,8-pentamethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one | CC1(NC2=NC3=C(N2C(N1C)=O)C=C(C(=C3)C)C)C | C14H18N4O
